US05952368
{2-[5-(4-Chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine [prepared by the method described in Example 5, but substituting the methyl ester of zomepirac for the methyl ester of tolmetin in Step (a)] (0.45 g, 1.32 mmol) and dimethylcarbamoyl chloride (0.13 ml, 1.46 mmol) were dissolved in pyridine (6.6 ml), and the mixture was stirred at room temperature for 96 h. The solvents were removed in vacuo and the residue was crystallized from chloroform-hexane mixture to give 1-(2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-3,3-dimethylurea (0.31 g, 57%) as a solid, mp 227.2-230.0° C.

reactant | {2-[5-(4-Chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)N)C)C=C1 | C19H18ClN3O
reactant | zomepirac | CC=1C=C(N(C1C(=O)C=2C=CC(=CC2)Cl)C)CC(=O)O | C15H14ClNO3
reactant | tolmetin | CC=1C=CC(=CC1)C(=O)C2=CC=C(N2C)CC(=O)O | C15H15NO3
reactant | dimethylcarbamoyl chloride | 1.46 mmol, 0.13 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 6.6 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-3,3-dimethylurea | 0.31 g, 57% | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)NC(=O)N(C)C)C)C=C1 | C22H23ClN4O2
